US08580799B2
To a solution of 2-hydroxy-1H-isoindole-1,3(2H)-dione (4.13 g, 15.0 mmol) in acetonitrile (150 mL) were added 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (50.1 g, 337 mmol), cesium carbonate (210 g, 643 mmol) and potassium iodide (2.54 g, 15.3 mmol). The heterogenous mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with water, the insolubles were filtered off, rinsed with water and dried over night to afford 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione as a colourless solid [36.0 g, yield 43%; HPLC/MS: m/z=276 (M+H); log P(HCOOH)=0.74].

reactant | 2-hydroxy-1H-isoindole-1,3(2H)-dione | 15.0 mmol, 4.13 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 337 mmol, 50.1 g | Cl.ClCC=1N=C(SC1)N
reactant | cesium carbonate | 643 mmol, 210 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 15.3 mmol, 2.54 g | [I-].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione | yield 43% | NC=1SC=C(N1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3S
